US04144047
Preparation of 3-(α,α,α-Trifluoro-m-Tolyl)-4-Isothiazolecarboxylic Acid, Propyl Ester.
A solution of 2.92 g (0.010 mol) of 3-(α,α,α-trifluoro-m-tolyl)-4-isothiazolecarbonyl chloride and 4 g (0.0667 mol) of 1-propanol was heated on a steam bath for 1 hour and was concentrated under vacuum to 70° (0.5 torr) to give 3.17 g of clear oil, nD20.8 = 1.5261, infrared (film) 5.80 μ.

reactant | 3-(α,α,α-trifluoro-m-tolyl)-4-isothiazolecarbonyl chloride | 0.010 mol, 2.92 g | FC(C1=CC(=CC=C1)C1=NSC=C1C(=O)Cl)(F)F | C11H5ClF3NOS
reactant | 1-propanol | 0.0667 mol, 4 g | C(CC)O | C3H8O
product | 3-(α,α,α-Trifluoro-m-Tolyl)-4-Isothiazolecarboxylic Acid, Propyl Ester | 3.17 g | FC(C1=CC(=CC=C1)C1=NSC=C1C(=O)OCCC)(F)F | C14H12F3NO2S
